US05190958
(i) Preparation of 3-phenylmethylhexahydroazepin-2-one
A solution of n-butyl lithium in hexane (2.5 M, 178 ml, 0.444 mol) was added dropwise to a mechanically stirred solution of hexahydroazepin-2-one (22.8 g, 0.202 mol) in tetrahydrofuran (400 ml) over a period of 90 minutes at 0° C. The solution was stirred for 3 hours and then cooled to -50° C. Benzyl bromide (24 ml, 0.202 mol) in tetrahydrofuran (100 ml) was then added dropwise over a period of 1 hour and the reaction mixture allowed to warm slowly to room temperature and stirred for 15 hours. Addition of water (100 ml) and saturated aqueous ammonium chloride (100 ml) was followed by extraction of the aqueous phase with ethyl acetate (3×100 ml). The combined organic phases were washed with brine, dried with sodium sulphate and evaporated in vacuo. Flash column chromatography upon silica gel of the resulting oily solid using ethyl acetate: methanol (25:1) as eluant afforded a solid which was recrystallised from benzene/hexanes to give the desired product as an off white solid, 10.3 g, M.pt. 99°-104° C., M+ found: 203.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.444 mol, 2.5 M, 178 ml | CCCCCC | C6H14
reactant | hexahydroazepin-2-one | 0.202 mol, 22.8 g | N1C(CCCCC1)=O | C6H11NO
reactant | Benzyl bromide | 0.202 mol, 24 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 3-phenylmethylhexahydroazepin-2-one | C1(=CC=CC=C1)CC1C(NCCCC1)=O | C13H17NO
